US03946032
A mixture of 300 mg of 6-phenyl-8-chloro-4H-s-triazolo[4,3-a][1,4]benzodiazepine-1-methanol, 0.57 g of dicyclohexyl-carbodiimide, 45 mg of phosphoric acid and 3 ml of abs. dimethylsulphoxide is stirred for 6 days at 25° and for a further 2 days at 70°-80°. Methylene chloride is then added, the organic phase washed with water and saturated sodium chloride solution, dried over magnesium sulphate and concentrated by evarporation. Crude 6-phenyl-8-chloro-4H-s-triazolo[4,3-a][1,4]benzodiazepine-1-carboxaldehyde is obtained, which is dissolved in 5 ml of ethanol. An addition is made to the obtained solution of 100 mg of p-toluenesulphonic acid, and the mixture refluxed for 10 hours. The solution is concentrated in vacuo. The residue is taken up in methylene chloride, the organic phase washed with 5% aqueous potassium carbonate solution and with saturated sodium chloride solution, dried over sodium sulphate, and concentrated by evaporation. The residue is recrystallised from ethyl acetate/ether/petroleum ether to obtain 6-phenyl-8-chloro-4H-s-triazolo[4,3-a][1,4]benzodiazepine-1-carboxaldehyde-diethylacetal, M.P. 133°-135°.

reactant | 6-phenyl-8-chloro-4H-s-triazolo[4,3-a][1,4]benzodiazepine-1-methanol | 300 mg | C1(=CC=CC=C1)C1=NCC=2N(C3=C1C=C(C=C3)Cl)C(=NN2)CO | C17H13ClN4O
reactant | dicyclohexyl-carbodiimide | 0.57 g | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
reactant | phosphoric acid | 45 mg | P(O)(O)(O)=O | H3O4P
reactant | p-toluenesulphonic acid | 100 mg | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
solvent | ethanol | 5 ml | C(C)O | C2H6O
solvent | Methylene chloride | C(Cl)Cl | CH2Cl2
solvent | dimethylsulphoxide | CS(=O)C | C2H6OS
product | 6-phenyl-8-chloro-4H-s-triazolo[4,3-a][1,4]benzodiazepine-1-carboxaldehyde-diethylacetal | C(C)OC(C1=NN=C2N1C1=C(C(=NC2)C2=CC=CC=C2)C=C(C=C1)Cl)OCC | C21H21ClN4O2
